US08034945B2
(b). Propane-1-sulfonic acid [2-(2-amino-benzylamino)-3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-phenyl]-amide
Propane-1-sulfonic acid [3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(2-nitro-benzylamino)-phenyl]-amide (1.21 g) and acetic acid (1.6 ml) were dissolved in THF (150 ml). Zinc dust (2.32 g) was added under vigorous stirring. After 3 h, the mixture was filtered, diluted with ethyl acetate and washed with sat. aq. NaHCO3. The residue was purified by chromatography on silicagel in heptane/ethyl acetate 1/0→0/1 (v/v) as eluent.

reactant | Propane-1-sulfonic acid [3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-2-(2-nitro-benzylamino)-phenyl]-amide | 1.21 g | BrC=1C(=C(C=C(C1)C1C(=C(NC=2CC(CC(C12)=O)CCC)C)C#N)NS(=O)(=O)CCC)NCC1=C(C=CC=C1)[N+](=O)[O-] | C30H34BrN5O5S
reactant | acetic acid | 1.6 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | Zinc | 2.32 g | [Zn] | Zn
product | Propane-1-sulfonic acid [2-(2-amino-benzylamino)-3-bromo-5-(3-cyano-2-methyl-5-oxo-7-propyl-1,4,5,6,7,8-hexahydro-quinolin-4-yl)-phenyl]-amide | NC1=C(CNC2=C(C=C(C=C2Br)C2C(=C(NC=3CC(CC(C23)=O)CCC)C)C#N)NS(=O)(=O)CCC)C=CC=C1 | C30H36BrN5O3S
